US04708823
1.0 g of 21-chloro-17-hydroxy-4-pregnene-3,20-dione in 20 ml of dimethylformamide is agitated at 80° C. with 1.0 g of potassium acetate. After 30 minutes, the reaction mixture is introduced into ice water, the precipitated product is suctioned off, dissolved in ethyl acetate, and dried over sodium sulfate, thus obtaining 940 mg of 21-acetoxy-17-hydroxy-4-pregnene-3,20-dione; mp 236.5° C.

reactant | 21-chloro-17-hydroxy-4-pregnene-3,20-dione | 1.0 g | ClCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)O)=O | C21H29ClO3
reactant | potassium acetate | 1.0 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 21-acetoxy-17-hydroxy-4-pregnene-3,20-dione | 940 mg | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)O)=O | C23H32O5
